US07790747B2
2,6-Dichloro-4-methyl-nicotinic acid (0.234 g, 1.14 mmol) and hydrogen peroxide-urea adduct (0.537 g, 5.70 mmol) were suspended in CH2Cl2 to give a white slurry. Trifluoroacetic anhydride (0.65 ml, 4.67 mmol) was added dropwise over 5 minutes and the resulting pale yellow solution was stirred overnight at rt. The reaction mixture was quenched with water (10 ml) and then dry loaded onto silica gel and purified using column chromatography (MeCN/MeOH/NH4OH, 8:1:1, v/v/v) to give 2,6-dichloro-4-methyl-nicotinic acid-N-oxide as a pale yellow crystalline solid (0.103 g, 41%). 1H NMR (CD3OD) δ 2.37 (s, 3H), 7.60 (s, 1H).

reactant | 2,6-Dichloro-4-methyl-nicotinic acid | 1.14 mmol, 0.234 g | ClC1=C(C(=O)O)C(=CC(=N1)Cl)C | C7H5Cl2NO2
reactant | hydrogen peroxide-urea adduct | 5.70 mmol, 0.537 g | C(=O)(N)N.OO
reactant | Trifluoroacetic anhydride | 4.67 mmol, 0.65 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2,6-dichloro-4-methyl-nicotinic acid-N-oxide | 0.103 g, 41% | ClC1=C(C(=O)O)C(=CC(=[N+]1[O-])Cl)C | C7H5Cl2NO3
